US05622951
1-(2-Methoxyphenyl)-4-[1-(2,4-dimethylpyridin-3-yl)-cyclohex-1-en-4-yl]piperazine
To a solution of 1-(2-methoxyphenyl)-4-[1-hydroxy-1-(2,4-dimethylpyridin-3-yl)-cyclohex-4-yl]piperazine (0.8 g, 2.0 mmol) in dry THF (70 ml) under argon was added imidazole (0.3 g, 4.4 mmol) followed by methyl oxalyl chloride (0.6 ml, 6.5 mmol). The non-homogeneous reaction mixture was refluxed for 24 hours. The reaction solvent was removed and replaced with anhydrous toluene (50 ml). The reaction mixture was refluxed for a further 48 hours. The solvent was removed and the residue partioned between water and chloroform. The organic layer was removed and washed with saturated NaCI solution. The resulting organic phase was dried (MgSO4) filtered and reduced to an oil. Purification of the oil by silica gel column chromatography eluting with chloroform/methanol (20/1) gave the title product (560 mg) which was dissolved in chloroform to which ethereal HCl was added. The solvent was removed and the residue recrystallised from methanol/ether to give the title compound as the trihydrochloride, 1.75 hydrate, m.p. 215°-216° C.

reactant | 1-(2-methoxyphenyl)-4-[1-hydroxy-1-(2,4-dimethylpyridin-3-yl)-cyclohex-4-yl]piperazine | 2.0 mmol, 0.8 g | COC1=C(C=CC=C1)N1CCN(CC1)C1CCC(CC1)(C=1C(=NC=CC1C)C)O | C24H33N3O2
reactant | imidazole | 4.4 mmol, 0.3 g | N1C=NC=C1 | C3H4N2
solvent | THF | 70 ml | C1CCOC1 | C4H8O
product | 1-(2-Methoxyphenyl)-4-[1-(2,4-dimethylpyridin-3-yl)-cyclohex-1-en-4-yl]piperazine | 560 mg | COC1=C(C=CC=C1)N1CCN(CC1)C1CC=C(CC1)C=1C(=NC=CC1C)C | C24H31N3O
